US05068404
To a pressure reactor was added 2.09 g (8.3 mmol) of methyl-N-[(dimethoxyphosphinyl)methyl]-N-isopropylglycine, 2.17 g (27.2 mmol) of 50% sodium hydroxide, and 10 ml of water. The reactor vessel was flushed with nitrogen for 15 minutes, sealed, and heated to 300° C. for 3.5 hours while the pressure was controlled to maintain water within the reactor. After cooling and release of residual pressure, the reaction mixture was removed from the reactor and diluted with 5 ml of water. This solution was acidified by the addition of 2.4 ml of hydrochloric acid and purified by ion-exchange chromatography to provide 0.27 g (20% yield) of N-phosphonomethylglycine.

reactant | methyl-N-[(dimethoxyphosphinyl)methyl]-N-isopropylglycine | 8.3 mmol, 2.09 g | CC(N(C(C)C)CP(=O)(OC)OC)C(=O)O | C9H20NO5P
reactant | sodium hydroxide | 27.2 mmol, 2.17 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | N-phosphonomethylglycine | 0.27 g, 20% yield | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
